US07285671B2
Step 5: The final coupling—preparation of (S)-3,3,4,4,4-pentafluorobutan-2-yl 4-((4-hydroxy-2-oxo-2H-chromen-3-yl)methyl)benzoate
4-Hydroxycoumarin (1.367 g, 8.44 mmol) and (S)-4-formyl-benzoic acid 2,2,3,3,3-pentafluoro-1-methyl-propyl ester (2.505 g, 8.46 mmol) were dissolved in formic acid (3.0 mL) and Et3N (3.6 mL) at 0° C. After stirring at 140° C. for 4 h, the yellow solution was cooled to rt, EtOAc was added, and the organic layer was washed successively with 1 N HCl and brine. After drying over Na2SO4 and concentrating, the pale yellow solid was purified twice by silica gel chromatography (DCM:MeOH 100:6 and DCM:MeOH 100:5) to yield the title compound in 92.5% ee as determined by chiral HPLC.

reactant | 4-Hydroxycoumarin | 8.44 mmol, 1.367 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | (S)-4-formyl-benzoic acid 2,2,3,3,3-pentafluoro-1-methyl-propyl ester | 8.46 mmol, 2.505 g | FC([C@H](C)OC(C1=CC=C(C=C1)C=O)=O)(C(F)(F)F)F | C12H9F5O3
reactant | Et3N | 3.6 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | formic acid | 3.0 mL | C(=O)O | CH2O2
product | (S)-3,3,4,4,4-pentafluorobutan-2-yl 4-((4-hydroxy-2-oxo-2H-chromen-3-yl)methyl)benzoate | OC1=C(C(OC2=CC=CC=C12)=O)CC1=CC=C(C(=O)O[C@@H](C)C(C(F)(F)F)(F)F)C=C1 | C21H15F5O5
